US07943619B2
Tetrahydro-pyran-4-carboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (280 mg, 1 mmol) was converted, using tetrahydro-2H-pyran-4-carbonyl chloride instead of methoxyacetyl chloride, to the title compound (360 mg, 91%) which was obtained as a white solid. MS: m/e=395.1 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 1 mmol, 280 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | tetrahydro-2H-pyran-4-carbonyl chloride | O1CCC(CC1)C(=O)Cl | C6H9ClO2
product | Tetrahydro-pyran-4-carboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide | 360 mg, 91% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)NC(=O)C1CCOCC1 | C21H22N4O4
